### PR TITLE
[Merged by Bors] - feat: generalize Mathlib.Topology

### PR DESCRIPTION
**Pull request by vlad902**
This is one of a series of PRs that generalizes type classes across Mathlib. These are generated using a new linter that tries to re-elaborate theorem definitions with more general type classes to see if it succeeds. It will accept the generalization if deleting the entire type class causes the theorem to fail to compile, and the old type class can not simply be re-synthesized with the new declaration. Otherwise, the generalization is rejected as the type class is not being generalized, but can simply be replaced by implicit type class synthesis or an implicit type class in a variable block being pulled in.

The linter currently output debug statements indicating source file positions where type classes should be generalized, and a script then makes those edits. This file contains a subset of those generalizations. The linter and the script performing re-writes is available in commit 5e2b7040be0f73821c1dcb360ffecd61235d87af.

Also see discussion on Zulip here:
https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/Elab.20to.20generalize.20type.20classes.20for.20theorems/near/498862988 https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Elab.20to.20generalize.20type.20classes.20for.20theorems/near/501288855

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by vlad902** [comment]
!bench

**Comment by grunweg** [comment]
Thanks for this series of PRs! Can you merge master, please - so this PR appears on the review queue again? It would be a pity for this work to go stale for silly reasons.

File: Mathlib/Topology/Separation/CompletelyRegular.lean [hunk 1]
```diff
@@ -91,23 +91,36 @@ instance T35Space.instT3space [T35Space X] : T3Space X := {}
 
 instance T4Space.instT35Space [T4Space X] : T35Space X := {}
 
-lemma separatesPoints_continuous_of_t35Space [T35Space X] :
-    SeparatesPoints (Continuous : Set (X → ℝ)) := by
+lemma separatesPoints_continuous_of_completelyRegularSpace [CompletelyRegularSpace X] :
+    SeparatesPoints (Continuous : Set (X → ℝ)) :=
+  by
```
Comment (urkud) [inline Mathlib/Topology/Separation/CompletelyRegular.lean:96]:
```suggestion
    SeparatesPoints (Continuous : Set (X → ℝ)) := by
```

File: Mathlib/Topology/Separation/CompletelyRegular.lean [hunk 2]
```diff
@@ -91,23 +91,36 @@ instance T35Space.instT3space [T35Space X] : T3Space X := {}
...
   intro x y x_ne_y
   obtain ⟨f, f_cont, f_zero, f_one⟩ :=
-    CompletelyRegularSpace.completely_regular x {y} isClosed_singleton x_ne_y
+    CompletelyRegularSpace.completely_regular x { y } isClosed_singleton x_ne_y
```
Comment (urkud) [inline Mathlib/Topology/Separation/CompletelyRegular.lean:99]:
```suggestion
    CompletelyRegularSpace.completely_regular x {y} isClosed_singleton x_ne_y
```

File: Mathlib/Topology/Separation/CompletelyRegular.lean [hunk 3]
```diff
@@ -91,23 +91,36 @@ instance T35Space.instT3space [T35Space X] : T3Space X := {}
...
 
-lemma injective_stoneCechUnit_of_t35Space [T35Space X] :
-    Function.Injective (stoneCechUnit : X → StoneCech X) := by
+@[deprecated (since := "2025-03-21")]
+alias separatesPoints_continuous_of_t35Space_Icc :=
+  separatesPoints_continuous_of_completelyRegularSpace_Icc
+
+lemma injective_stoneCechUnit_of_completelyRegularSpace [CompletelyRegularSpace X] :
+    Function.Injective (stoneCechUnit : X → StoneCech X) :=
+  by
```
Comment (urkud) [inline Mathlib/Topology/Separation/CompletelyRegular.lean:119]:
```suggestion
    Function.Injective (stoneCechUnit : X → StoneCech X) := by
```

File: Mathlib/Topology/Separation/CompletelyRegular.lean [hunk 4]
```diff
@@ -91,23 +91,36 @@ instance T35Space.instT3space [T35Space X] : T3Space X := {}
...
+@[deprecated (since := "2025-03-21")]
+alias separatesPoints_continuous_of_t35Space := separatesPoints_continuous_of_completelyRegularSpace
+
+lemma separatesPoints_continuous_of_completelyRegularSpace_Icc [CompletelyRegularSpace X] :
+    SeparatesPoints (Continuous : Set (X → I)) :=
+  by
   intro x y x_ne_y
   obtain ⟨f, f_cont, f_zero, f_one⟩ :=
-    CompletelyRegularSpace.completely_regular x {y} isClosed_singleton x_ne_y
+    CompletelyRegularSpace.completely_regular x { y } isClosed_singleton x_ne_y
```
Comment (urkud) [inline Mathlib/Topology/Separation/CompletelyRegular.lean:110]:
```suggestion
    CompletelyRegularSpace.completely_regular x {y} isClosed_singleton x_ne_y
```

File: Mathlib/Topology/Separation/CompletelyRegular.lean [hunk 5]
```diff
@@ -91,23 +91,36 @@ instance T35Space.instT3space [T35Space X] : T3Space X := {}
...
   exact ⟨fun x ↦ f x, continuous_subtype_val.comp f_cont, by aesop⟩
 
-lemma separatesPoints_continuous_of_t35Space_Icc [T35Space X] :
-    SeparatesPoints (Continuous : Set (X → I)) := by
+@[deprecated (since := "2025-03-21")]
+alias separatesPoints_continuous_of_t35Space := separatesPoints_continuous_of_completelyRegularSpace
+
+lemma separatesPoints_continuous_of_completelyRegularSpace_Icc [CompletelyRegularSpace X] :
+    SeparatesPoints (Continuous : Set (X → I)) :=
+  by
```
Comment (urkud) [inline Mathlib/Topology/Separation/CompletelyRegular.lean:107]:
```suggestion
    SeparatesPoints (Continuous : Set (X → I)) := by
```

**Comment by urkud** [comment]
I've reverted formatting changes and merged `master` to see if CI is happy. Thanks!
bors d+

**Comment by urkud** [comment]
bors merge
